US06642389B2
h] (S)-4-Benzyl-3-[(S)-2-methoxy-3-(4-{2-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-ethoxy}-naphthalen-1-yl)-propionyl]-oxazolidin-2-one
0.837 g of the above prepared (S)-4-benzyl-3-[(2S,3R)-3-hydroxy-2-methoxy-3-(4-{2-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-ethoxy}-naphthalen-1-yl)-propionyl]-oxazolidin-2-one (1.23 mmol) was dissolved in 3.2 ml of trifluoroacetic acid, treated at 0° with 0.977 ml of triethylsilane (5 eq.) and then kept for 16 h at ambient temperature, when TLC indicated the disappearance of starting material. The reaction mixture was then poured onto crashed ice/AcOEt/NaHCO3, the organic layer washed with water and brine (pH of aq. phase˜8), dried over magnesium sulfate, and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=7/3) delivered 0.702 g of the title compound as white foam.

reactant | (S)-4-benzyl-3-[(2S,3R)-3-hydroxy-2-methoxy-3-(4-{2-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-ethoxy}-naphthalen-1-yl)-propionyl]-oxazolidin-2-one | 1.23 mmol | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H]([C@@H](C1=CC=C(C2=CC=CC=C12)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F)O)OC)=O | C37H33F3N2O7
reactant | triethylsilane | 0.977 ml, 5 eq. | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 3.2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-4-Benzyl-3-[(S)-2-methoxy-3-(4-{2-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-ethoxy}-naphthalen-1-yl)-propionyl]-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H](CC1=CC=C(C2=CC=CC=C12)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F)OC)=O | C37H33F3N2O6
